US08729102B2
G) 6-[6-(cyclopropylmethoxy)-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-ol
Sodium hydride (27.7 mg) was added to a suspension of 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-1-(5-{[tris(1-methylethyl)silyl]oxy}pyridin-2-yl)ethanol (600 mg) and copper(I) chloride (5.71 mg) in toluene (10 mL) at room temperature. The reaction mixture was stirred at 120° C. for 3 hr, and allowed to cool to room temperature. Water was added to the mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in THF (10 mL), and a THF solution (1.0 M, 5.76 mL) of tetrabutylammonium fluoride was added thereto. The reaction mixture was stirred at room temperature for 30 min, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (180 mg).

reactant | Sodium hydride | 27.7 mg | [H-].[Na+]
reactant | 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-1-(5-{[tris(1-methylethyl)silyl]oxy}pyridin-2-yl)ethanol | 600 mg | BrC1=C(C=CC(=C1)OCC1CC1)CC(O)C1=NC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H38BrNO3Si
reactant | Water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) chloride | 5.71 mg | [Cu]Cl
product | 6-[6-(cyclopropylmethoxy)-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-ol | 180 mg | C1(CC1)COC1=CC2=C(CC(O2)C2=CC=C(C=N2)O)C=C1 | C17H17NO3
